US04689321
3-(2'-Deoxyuridin-3'-yl)prop-2-enal
The procedure used in Example IV is followed utilizing 2'-deoxyuridine (456 mg; 2 mmole) triethylamine (280 μl; 2 mmole) and propargyl aldehyde (200 μl; 4 mmole) to obtain, after preparative TLC (eluant 5% methanol in ethyl acetate), the desired title compound as a pale yellow oil (190 mg; 34% yield) pure by TLC analysis. 1HNMR (DMSO) 5.88 (d, J=8.2 Hz, 1H, N--CH=CH--CO) 6.15 (t,J=6.1 Hz, 1H, N--CH--(O)), 7.04 (q, J1 =8.2 Hz, J2 =14.8 Hz, 1H, --CH=CH--CHO) 8.05 (d,J=8.2 Hz, 1H, N--CH=CH--CO) 8.15 (d,J=14.8, 1H, CH=CH--CHO) 9.60 (d,J=7.8 Hz, 1H, CHO). Mass spectrum m/z (intensity, % base peak), ion: 282 (0.1)M+, 253 (0- 1) (M-CHO)+, 137 (40) 117 (78) 73 (100).

reactant | 2'-deoxyuridine | 2 mmole, 456 mg | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | triethylamine | 2 mmole, 280 μl | C(C)N(CC)CC | C6H15N
reactant | methanol | CO | CH4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2'-Deoxyuridin-3'-yl)prop-2-enal | 190 mg, 34% yield | [C@@H]1(C[C@](O)([C@@H](CO)O1)C=CC=O)N1C(=O)NC(=O)C=C1 | C12H14N2O6
